US04153720
A mixture of 2.14 g (0.01 m) of diacetyltetrahydropyrantrione (prepared by the method of J. Chem. Soc., 2721 (1971) and Ann., 273 194 (1893), Belgian Pat. No. 835,266) in 200 ml of ethanol:water (1:3) was shaken at 60 psi of hydrogen in the presence of prereduced platinum oxide catalyst (0.4 g) until hydrogen uptake was complete. The catalyst was removed by filtration. The filtrate was concentrated. The residue was recrystallized from ethyl acetate to give 3-acetyl-5-ethyl-4-hydroxy-2H-pyran-2,6-(3H)-dione, m.p. 212°. The same material was obtained when the catalyst employed was 0.6 g palladium black.

reactant | diacetyltetrahydropyrantrione | 2.14 g | C(C)(=O)C1(C(C(C(OC1)=O)=O)=O)C(C)=O | C9H8O6
reactant | hydrogen | [H][H] | H2
reactant | ethanol water | 200 ml | C(C)O.O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | 3-acetyl-5-ethyl-4-hydroxy-2H-pyran-2,6-(3H)-dione | C(C)(=O)C1C(OC(C(=C1O)CC)=O)=O | C9H10O5
